Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
anemia
 
Major Surgical or Invasive Procedure:
___ EGD with gastric ulcer biopsy

 
History of Present Illness:
Patient presents with three days of melanotic stool, diarrhea 
and
vomiting. He has had left lower quadrant pain, but no
fever/chills. 

In the ED, initial vitals: Afebrile, HR 92, BP 181/55, RR 16 
100%
RA  
- Exam notable for: tenderness to palpation LLQ 
- Labs notable for: Hemoglobin 6.6 --> 8.6 after 2 units, ALT
165, AST 129, LDH 470, stool guiac 
- Imaging notable for: CT Abdomen/pelvis suggests vasitis,
fascial thickening, left adrenal lesion, multiple liver
hypodensities, bilateral pleural effusions.
- Pt given: IV pantoprazole, zosyn x1, tylenol

Upon arrival to the floor, the following history is obtained 
with
assistance from interpreter. Patient is a poor historian and it
was difficult to obtain a coherent story.

Patient noticed black stool for the first time on ___.
He had several subsequent episodes, unclear how many. The last
bloody bowel movement was ___. He denied abdominal pain,
hematemesis. He previously underwent EGD in ___ that was
negative for H pylori. Last colonoscopy was about ___ years ago.
He presented to his PCP, who noted that the patient had low
hemoglobin and recommended he go to the ED. 

The patient's episodes of dark stool were accompanied by
dizziness. This was noted upon standing and ambulating. He did
not have syncope. He has had dyspnea on exertion and when 
supine.
He notes palpitations as well, usually during the nighttime. He
reports three episodes of chest pain over the last few months,
all of which occurred while supine. The patient notes that he 
had
a pacemaker placed for "slow heart beat." He denies history of
MI.

Mr. ___ was asked about any history of liver disease, given his
elevations in LFTs. He reports remote history of hepatitis A, 
but
not B or C. He has lived in the ___ since ___. 

The patient has been experiencing dysuria for the last ___
years. He denies hematuria, penile discharge, scrotal pain,
perineal pain with defecation. He also reports a history of a
painless penile lesion approximately ___ years ago that 
resolved
spontaneously. 

Positive as above.
10 point ROS otherwise negative.

 
Past Medical History:
-Hypothyroidism
-Possible atrial fibrillation/sick sinus syndrome
-Pacemaker placement
-Hyperlipidemia

 
Social History:
___
Family History:
___ and noncontributory 
 
Physical Exam:
========================
ADMISSION PHYSICAL EXAM
========================
VITALS: ___ ___ Temp: 98.1 PO BP: 151/73 R Lying HR: 73 
RR:
18 O2 sat: 93% O2 delivery: Ra   
General: Elderly gentleman, well-nourished, NAD 
HEENT: anicteric sclera, mucous membranes dry 
CV: Irregular rhythm, normal rate, no murmurs
Lungs: Poor inspiratory effort, but no obvious wheezing or
crackles  
Abdomen: Slightly distended, no tenderness to palpation in all
four quadrants
GU: Slight pain at the glans, no scrotal pain, no hernias, no
penile or scrotal lesions
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Skin: small pus collection at the right ___ digit. No other
rashes or lesions.  

=======================
DISCHARGE PHYSICAL EXAM
=======================
Vitals: ___ ___ Temp: 98.7 PO BP: 139/76 HR: 65 RR: 16 O2
sat: 94% O2 delivery: RA   
General: Elderly gentleman in no acute distress,
___ only   
Lungs: a few rhonchi but no wheezing or crackles 
CV: Irregular rhythm, normal rate, soft systolic murmur
Abdomen: somewhat distended, mild tenderness to palpation in the
epigastrium
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Neuro: Face grossly symmetric. Moving all limbs with purpose
against gravity. Not dysarthric

 
Pertinent Results:
==========================
ADMISSION LAB RESULTS
==========================
___ 07:50PM BLOOD WBC-11.4* RBC-1.87* Hgb-6.6* Hct-22.4* 
MCV-120* MCH-35.3* MCHC-29.5* RDW-22.0* RDWSD-89.3* Plt ___
___ 07:50PM BLOOD Neuts-76.5* Lymphs-9.6* Monos-10.4 
Eos-1.1 Baso-0.3 NRBC-6.3* Im ___ AbsNeut-8.72* 
AbsLymp-1.10* AbsMono-1.19* AbsEos-0.12 AbsBaso-0.03
___ 07:50PM BLOOD ___ PTT-25.6 ___
___ 04:11PM BLOOD UreaN-17 Creat-1.1 Na-145 K-3.8 Cl-103 
HCO3-23 AnGap-19*
___ 07:50PM BLOOD ALT-165* AST-129* LD(LDH)-470* AlkPhos-59 
TotBili-0.8
___ 07:50PM BLOOD Lipase-70*
___ 07:50PM BLOOD cTropnT-<0.01
___ 07:50PM BLOOD Albumin-4.0 Calcium-8.6 Phos-3.8 Mg-2.2 
Iron-37*
___ 07:50PM BLOOD calTIBC-268 VitB12-583 Folate-15 Hapto-72 
Ferritn-322 TRF-206
___ 04:11PM BLOOD TSH-7.1*
___ 04:11PM BLOOD Free T4-1.9*
___ 01:25PM BLOOD HBsAg-NEG HBsAb-POS HBcAb-POS* IgM 
HAV-PND
___ 01:25PM BLOOD Trep Ab-NEG
___ 01:25PM BLOOD HCV Ab-NEG

========================
DISCHARGE LAB RESULTS
========================
___ 04:54AM BLOOD WBC-8.7 RBC-2.59* Hgb-8.5* Hct-28.6* 
MCV-110* MCH-32.8* MCHC-29.7* RDW-20.9* RDWSD-77.1* Plt ___
___ 04:54AM BLOOD ___ PTT-28.7 ___
___ 04:54AM BLOOD Glucose-93 UreaN-14 Creat-1.0 Na-142 
K-3.7 Cl-104 HCO3-28 AnGap-10
___ 04:54AM BLOOD ALT-104* AST-56* LD(LDH)-299* AlkPhos-47 
TotBili-0.9
___ 04:54AM BLOOD Albumin-3.6 Calcium-8.4 Phos-4.1 Mg-2.2
___ 01:25PM BLOOD TSH-6.1*
___ 01:25PM BLOOD T4-7.5

=====================
IMAGING AND REPORTS
=====================

CT ABDOMEN/PELVIS ___
IMPRESSION: 
1. Prominence of the right spermatic cord with associated 
haziness, of 
uncertain acuity, but raises concern for vasitis. 
2. Fascial thickening along the bilateral lateral conal fascia 
which tracks into the pelvis, of unclear etiology. 
3. A 3.1 cm left adrenal lesion is demonstrated. 
4. Multiple hypodensities throughout the liver are of unknown 
etiology, may represent cysts or hamartomas. 
5. Bilateral pleural effusions with adjacent subsegmental 
compressive 
atelectasis. 
6. Duplicated IVC. 
RECOMMENDATION(S):  Follow-up adrenal MR is recommended to 
further 
characterize if no prior imaging is been done. 

SCROTAL ULTRASOUND ___
IMPRESSION:  
1.  No evidence of scrotal mass or abscess. 
2.  Multiple right epididymal cysts, largest measures up to 7 mm 
in the 
epididymal head. 
3.  Small hydroceles bilaterally. 

EGD ___
A single cratered non-bleeding 11 mm ulcer was found in the 
antrum. Clean-based. Multiple cold forceps biopsies were 
performed for H. pylori in the stomach and stomach antrum. 
Normal esophagus and duodenum. 

 
Brief Hospital Course:
SUMMARY:

___ with PMH of atrial fibrillation/sick sinus syndrome s/p 
pacemaker placement and on Eliquis, hypothyroidism, 
hyperlipidemia, hypertension, chronic dysuria who presented to 
the ED from his PCP's office with melena and Hgb 6.6. He 
received 2u PRBC with repeat Hgb 8.6. He underwent EGD which 
showed non-bleeding gastric ulcer. He was treated with PPI BID 
and H. pylori was sent. He was discharged with PCP and GI 
followup for repeat EGD in 12 weeks.

===================
TRANSITIONAL ISSUES
===================
- F/u Appts: PCP, GI
- F/u Labs: CBC, LFts in ___ weeks, HBV VL, TSH, T4
- GI Bleed:
[ ] Repeat EGD in 12 weeks, GI will arrange
[ ] GI Office will call patient with biopsy results
[ ] BID PPI x 8 weeks, then can transition to daily 20 mg 
omeprazole
[ ] Hold apixaban x7d until ___ 
[ ] Amiodarone can cause increased apixaban action and may have 
contributed to GI bleed. Consider stopping amiodarone
- Afib:
[ ] Many potential issues caused by Amiodarone (Transaminitis, 
thyroid dysfunction, increased bleeding). Consider stopping and 
pursuing alternative Afib treatment
- Other Issues:
[ ] Paronychia on Rt ___ finger, no surrounding cellulitis. 
Instructed pt to perform antiseptic soaks and topical abx. 
Re-evaluate as outp
[ ] Outpatient evaluation for liver cyst with ___
[ ] Thyroid function: difficult to control, repeat TSH, T4 on 
amiodarone, consider stopping
[ ] LFTs: elevated during admission but downtrending. Etiology 
unclear, possible amiodarone. Also, HBV +cAb. Repeat LFTs, and 
consider further w/u with TSH. 

# Health care proxy/emergency contact: 
___ 
Relationship: daughter 
Phone number: ___ 

ACUTE PROBLEMS:
===============

# Upper GI bleed
# Gastric ulcer 
Patient reported that about a week prior to presentation, he 
experienced acute onset nausea, vomiting and diarrhea after 
eating a fatty meal. He subsequently had several episodes of 
dark stool. For the following few days he felt fatigued and 
dizzy. He saw his PCP and was found to have hemoglobin about 
6.7, and his PCP referred him to the ED. There, he received 2 
units of blood and Hb stabilized. He had no further episodes of 
blood in the stool. GI was consulted and recommended EGD, which 
was done on ___ and revealed a single non-bleeding gastric 
ulcer. Biopsies were taken for H. pylori. The patient was 
started on omeprazole 40 BID, which he should continue for 8 
weeks. He may then transition to once daily dosing. He will need 
follow up EGD in 8 weeks. His apixaban was held on admission and 
should not be restarted until 1 week post-EGD (___). The 
patient is also on amiodarone, which is known to enhance the 
action of apixaban and may have contributed to his bleeding 
episode. Consider discontinuation of amiodarone (discussed 
below).

# Acute blood loss anemia
Patient presented with a hemoglobin of 6.5 on initial 
presentation to the ED. He received 2 units of RBC and 
subsequently stabilized. He had no further episodes of GI 
bleeding while hospitalized. His discharge hemoglobin was 8.5. 

# Atrial fibrillation on apixaban
# Sick sinus syndrome s/p pacemaker placement
Patient's cardiac history not fully known, and we were unable to 
obtain records from PCP ___. Patient states that he had a 
pacemaker recently placed this year for slow heart rate. He 
reported some dizziness and dyspnea on exertion, which were 
attributed to blood loss anemia. He was placed on telemetry but 
did not have any evidence of arrhythmia. He was continued on 
home amiodarone and metoprolol, but apixaban was held due to GI 
bleed. This should be restarted on ___. Although home 
amiodarone was continued, it was felt to potentially be a cause 
for the patient's fluctuating thyroid function studies and 
transaminitis. It may be worthwhile to consider discontinuation 
of this medication in light of these potential side effects; 
would recommend outpatient cardiology evaluation. 

# Hypothyroidism
Patient reportedly had history of elevated TSH and normal T4 to 
suggest subclinical hypothyroidism and was started on 
levothyroxine. Repeat studies here showed variable thyroid 
functioning. His levothyroxine was held due to uncertainty 
regarding dosage, as the patient did not bring in that 
particular medication. He may restart his home dose upon 
discharge, but would consider re-evaluating hypothyroidism in 
the setting of amiodarone use. 

# Transaminitis
Patient was found in the ED to have newly elevated AST, ALT and 
LDH. CT imaging demonstrated several cystic liver lesions of 
unclear etiology. No recent travel history. He did have a 
positive hepatitis B core antibody which would warrant a 
hepatitis B viral load to determine whether the infection is 
active. Would also consider amiodarone as a potential cause for 
his LFT abnormality. 

# Chronic dysuria
Patient reports ___ years of dysuria. UA in the ED was 
unremarkable, no leuks or bacteria to suggest UTI or 
prostatitis. He reported a history of a painless penile lesion 
that self-resolved a few years ago. He was tested for treponemal 
antibody, which was negative. He had an incidental finding of 
vasitis on pelvic CT scan, as well as cystic lesions of the 
epididymis on subsequent scrotal ultrasound. Unclear source, but 
would consider further evaluation particularly given liver cysts 
as well. 

CHRONIC/STABLE PROBLEMS: 
========================
# Hyperlipidemia
- Atorvastatin 100 QHS

# Hypertension
- Metoprolol succinate 50 mg daily

# Insomnia
- Trazodone 100 mg QHS
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. TraZODone 100 mg PO QHS:PRN insomnia 
2. Levothyroxine Sodium 75 mcg PO DAILY 
3. Atorvastatin 10 mg PO QPM 
4. Metoprolol Succinate XL 50 mg PO DAILY 
5. Amiodarone 200 mg PO DAILY 
6. Apixaban 5 mg PO BID 

 
Discharge Medications:
1.  Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0 
2.  Amiodarone 200 mg PO DAILY  
3.  Atorvastatin 10 mg PO QPM  
4.  Levothyroxine Sodium 75 mcg PO DAILY  
5.  Metoprolol Succinate XL 50 mg PO DAILY  
6.  TraZODone 100 mg PO QHS:PRN insomnia  
7. HELD- Apixaban 5 mg PO BID  This medication was held. Do not 
restart Apixaban until ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
-Upper GI bleed due to gastric ulcer
SECONDARY:
-Acute blood loss anemia
-Hypothyroidism
-Atrial fibrillation on anticoagulation 
-Transaminitis 
-Chronic dysuria

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure caring for you at ___.  

WHY WERE YOU IN THE HOSPITAL?  
- You were admitted to the hospital for bleeding with low blood 
counts

WHAT HAPPENED WHEN YOU WERE IN THE HOSPITAL? 
- You were given blood and a medicine to decrease the amount of 
acid in your stomach
- Your blood counts remained stable and you were ready to go 
home 
- You had a scope done to evaluate your stomach and intestine 
which showed an ulcer that was likely the cause of your 
bleeding. 

WHAT SHOULD YOU DO AFTER YOU LEAVE THE HOSPITAL?  
- Continue to take all your medicines as prescribed below. 
- Show up to your appointments as listed below.
- Please seek medical attention if you have large bowel 
movements that are either black and tarry or have bright red 
blood in them.
- You will need to have the scope repeated in 12 weeks
- Please do not take your blood thinner Eliquis until ___

We wish you the best!  

Sincerely,  

Your ___ Team
 
Followup Instructions:
___